US07087601B2
2-(4-fluoro-3-nitrophenyl)-1,3-benzoxazole (200 mg, 0.77 mmol) was dissolved in DMSO (5 mL) and K2CO3 (267 mg, 1.94 mmol) was added. The resulting yellow mixture was warmed to 65° C. and tert-butylcyanoacetate (137 mg, 0.97 mmol) was added dropwise. The dark red mixture was heated to 65° C. for 30 min, cooled to rt, and poured into H2O. The aqueous layer was acidified to pH 3 (with a 10% aqueous HCl solution) and it was extracted with EtOAc (3×). The organics were combined, washed with brine (2×), dried over Na2SO4, and evaporated to dryness. The yellow residue and p-toluenesulfonic acid (29.5 mg, 0.15 mmol) were dissolved in toluene (15 mL) and the mixture was refluxed for 20 h. After cooling to rt, the mixture was poured in H2O and the two layers were separated. The aqueous was extracted with EtOAc (3×), the organics were combined, dried over Na2SO4, and evaporated to dryness. Purification of the residue by flash chromatography on silica gel eluting with EtOAc:hexanes (3:7 to 2:3 to 1:1) afforded the desired [4-(1,3-benzoxazol-2-yl)-2-nitrophenyl]acetonitrile as an orange solid (M.p. 203° C.). 1H NMR (CDCl3, 300 MHz) δ 8.79 (s, 1H), 8.57 (dd, 1H), 7.97 (d, 1H), 7.86 (m, 2H), 7.54–7.44 (m, 2H), 4.50 (s, 2H). MS (ESI) 280 (M+H)+.

reactant | 2-(4-fluoro-3-nitrophenyl)-1,3-benzoxazole | 0.77 mmol, 200 mg | FC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)[N+](=O)[O-] | C13H7FN2O3
reactant | K2CO3 | 1.94 mmol, 267 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butylcyanoacetate | 0.97 mmol, 137 mg | C(C)(C)(C)OC(CC#N)=O | C7H11NO2
reactant | HCl | Cl | ClH
reactant | p-toluenesulfonic acid | 0.15 mmol, 29.5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | O | H2O
product | [4-(1,3-benzoxazol-2-yl)-2-nitrophenyl]acetonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)CC#N)[N+](=O)[O-] | C15H9N3O3
